US07601716B2
(4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-{4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}methanone
4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid was reacted with 1-[3-(trifluoromethyl)phenyl]piperazine as in General Procedure 10 to give the title compound. LCMS: m/z=659.99 (M+H+); retention time=1.08 minutes.

reactant | 4-{1-[5-chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}benzoic acid | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C(=O)O)C=C3)C1)C(F)(F)F | C22H17ClF3N3O2
reactant | 1-[3-(trifluoromethyl)phenyl]piperazine | FC(C=1C=C(C=CC1)N1CCNCC1)(F)F | C11H13F3N2
product | (4-{1-[5-Chloro-2-(trifluoromethyl)benzyl]-1,2,3,4-tetrahydropyrido[2,3-b]pyrazin-7-yl}phenyl)-{4-[3-(trifluoromethyl)phenyl]piperazin-1-yl}methanone | ClC=1C=CC(=C(CN2C3=C(NCC2)N=CC(=C3)C3=CC=C(C=C3)C(=O)N3CCN(CC3)C3=CC(=CC=C3)C(F)(F)F)C1)C(F)(F)F | C33H28ClF6N5O
